US06992087B2
Preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl acetate
A solution of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol (214 mg, 0.5 mmol) and pyridine (44 μL, 0.55 mmol) in dichloromethane (5 mL) was purged with nitrogen and cooled to 0° C. The light yellow homogenous solution was treated with acetyl chloride (34 μL, 0.48 mmol) with no visible change. The reaction mixture was gradually warmed to RT. After 16 hrs, the volatiles were removed under reduced pressure and the resulting residue was absorbed on 4 g silica gel and purified by Biotage MPLC (40 g column, 15% ethyl acetate/heptane) to afford the title compound as an off-white solid. IR (diffuse reflectance) 2971, 2934, 1743, 1568, 1550, 1498, 1467, 1393, 1372, 1238, 1207, 1177, 1101, 1036, 751 cm−1; OAMS supporting ions at: ESI+ 470.1; MS (EI) m/z 469 (M+); HRMS (FAB) calcd for C25H25CL2N3O2+H1 470.1402, found 470.1404. [α]25D=73 (c 0.60, methylene chloride); Anal. Calcd for C25H25Cl2N3O2: C, 63.83; H, 5.36; N, 8.93. Found: C, 63.45; H, 5.40; N, 8.79.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | 0.5 mmol, 214 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | pyridine | 0.55 mmol, 44 μL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.48 mmol, 34 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl acetate | C(C)(=O)O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C25H25Cl2N3O2
